US04729781
Methyl [(3,6-dichloro-2-methoxybenzoyl)aminooxy]acetate
To a solution of 2.15 g. of potassium hydroxide in 50 ml. of methanol was added 7.55 g. of 3,6-dichloro-2-methoxy benzohydroxamic acid followed by stirring until dissolution was obtained. To this solution was added dropwise 3.03 ml. methylbromoacetate in 25 ml. of methanol. The reaction mixture was refluxed for 2 hours and allowed to stir overnight at ambient temperature. To the reaction mixture was added 0.36 g. of additional potassium hydroxide and the mixture heated to reflux for 4 hours, then cooled, filtered, and the filtrate concentrated in vacuo to give a crude semi-solid product. This crude product was taken up in methylene chloride and washed with water, 5% aqueous NaHCO3, brine, then dried over MgSO4, filtered and evaporated in vacuo to give a viscuous oil. The oil crystallized from an ethyl acetate-hexane mixture to the title product as a white solid, m.p. 102°-105° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | CO | CH4O
reactant | 3,6-dichloro-2-methoxy benzohydroxamic acid | ClC=1C(=C(C(=O)NO)C(=CC1)Cl)OC | C8H7Cl2NO3
reactant | methylbromoacetate | COC(CBr)=O | C3H5BrO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl [(3,6-dichloro-2-methoxybenzoyl)aminooxy]acetate | ClC=1C(=C(C(=O)NOCC(=O)OC)C(=CC1)Cl)OC | C11H11Cl2NO5
